US07166587B2
A solution of 0.55 g (1.6 mmol) (S)-7-amino-5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one, 3.74 ml (50 mmol) trifluoroacetic acid and 1.4 ml (16 mmol) trifluormethane sulfonic acid in 38 ml dichloromethane was stirred at room temperature for 4 hours. The solvent was distilled off and extraction with aqueous sodium bicarbonate solution/ethyl acetate followed by chromatography on silicagel with ethylacetate/methanol (100-95/0-5) yielded 0.35 g (96%) (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one as orange solid; MS: m/e: 225.4 (M+H+).

reactant | (S)-7-amino-5-(4-methoxy-benzyl)-5H,7H-dibenzo[b,d]azepin-6-one | 1.6 mmol, 0.55 g | N[C@H]1C2=C(C3=C(N(C1=O)CC1=CC=C(C=C1)OC)C=CC=C3)C=CC=C2 | C22H20N2O2
reactant | trifluoroacetic acid | 50 mmol, 3.74 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluormethane sulfonic acid | 16 mmol, 1.4 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloromethane | 38 ml | ClCCl | CH2Cl2
product | (S)-7-amino-5H,7H-dibenzo[b,d]azepin-6-one | 0.35 g, 96% | N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C14H12N2O
